US07705004B2
To a solution of 1-(4-(4-(4-(1-methyl-1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (30 mg, 0.047 mmol) in dioxane (2 mL), aq. 1N KOH (2 mL, 2.00 mmol) was added. The mixture was stirred at 70° C. for 3 h. HOAc (0.3 mL) was added. The mixture was purified by HPLC to give N4-(1-methyl-1H-indazol-6-yl)-N2-(4-(piperazin-1-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine (3 mg), MS 440.3 (M+H) (Compound 22-1); and 1-(4-(4-(4-(1-methyl-1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone (7 mg), MS 482.3 (M+H) (Compound 22-2).

reactant | 1-(4-(4-(4-(1-methyl-1H-indazol-6-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)phenyl)piperazin-1-yl)ethanone | 0.047 mmol, 30 mg | CN1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O)NC=C2 | C26H27N9O
reactant | KOH | 2.00 mmol, 1N, 2 mL | [OH-].[K+]
reactant | HOAc | 0.3 mL | CC(=O)O | C2H4O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | N4-(1-methyl-1H-indazol-6-yl)-N2-(4-(piperazin-1-yl)phenyl)-7H-pyrrolo[2,3-d]pyrimidine-2,4-diamine | 3 mg | CN1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)N1CCNCC1)NC=C2 | C24H25N9
